US05990105
1.19 g (0.0039 mol) of N-[3-(4-amino-benzenesulphonyl)-phenyl]-N-methyl-acetamide were dissolved in a mixture of 70 ml of dioxane and 70 ml of IN NaOH and heated at reflux for 5 hrs. Subsequently, the organic solvent was distilled off and the residue was made neutral with 1N HCl and extracted with ethyl acetate. The organic phase was washed with water and sat. sodium chloride solution, dried over MgSO4, filtered and concentrated. The residue was chromatographed on silica gel with ethyl acetate/hexane 1:1. The solvent was removed from the product-containing fractions and the residue was recrystallized from ethyl acetate/ether. There was obtained 0.63 g (62%) of [3-(4-amino-benzenesulphonyl) -phenyl]-methylamine as yellow crystals; m.p.: 125-126° C.

reactant | N-[3-(4-amino-benzenesulphonyl)-phenyl]-N-methyl-acetamide | 0.0039 mol, 1.19 g | NC1=CC=C(C=C1)S(=O)(=O)C=1C=C(C=CC1)N(C(C)=O)C | C15H16N2O3S
solvent | dioxane | 70 ml | O1CCOCC1 | C4H8O2
solvent | NaOH | [OH-].[Na+]
product | [3-(4-amino-benzenesulphonyl) -phenyl]-methylamine | 0.63 g, 62% | NC1=CC=C(C=C1)S(=O)(=O)C=1C=C(C=CC1)NC | C13H14N2O2S
